US04072696
A suspension of 5.2 g. of 1-amino-5-phenylsulfinyl-2-nitrobenzene in 50 ml. of acetone is treated at 20°-25° C with a solution of 100 ml. of methoxycarbonyl isothiocyanate (made from 0.125 mol. (each) of potassium thiocyanate and methylchloroformate) in acetone. After several days, the solvent is stripped off under vacuum and the residue triturated with ether. Recrystallization of the crude product from methanol-chloroform yields 1-(3-methoxycarbonyl-2-thioureido)-5-phenylsulfinyl-2-nitrobenzene.

reactant | 1-amino-5-phenylsulfinyl-2-nitrobenzene | NC1=C(C=CC(=C1)S(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H10N2O3S
reactant | methoxycarbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | methylchloroformate | COC(=O)Cl | C2H3ClO2
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-methoxycarbonyl-2-thioureido)-5-phenylsulfinyl-2-nitrobenzene | COC(=O)NC(NC1=C(C=CC(=C1)S(=O)C1=CC=CC=C1)[N+](=O)[O-])=S | C15H13N3O5S2
